US07157471B2
1-Benzyl-4-(4-fluoro-2-nitro-phenylamino)-piperidine
21.5 g 2,5-difluoro-nitrobenzene, 52.3 g 1-benzyl-4-amino-piperidine and 100 ml N-methyl-piperidone were stirred at 100° C. for 3 h. After cooling the mixture was treated distributed between water and ethyl acetate and the aqeous layer was extracted 2× with ethyl acteate. The combined organic layers were extracted 5× with water, and the solvent was removed by evaporation. The target compound was crystallized from methanol to yield 38.7 g orange crystals (mp. 86–87° C.).

reactant | 2,5-difluoro-nitrobenzene | 21.5 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 1-benzyl-4-amino-piperidine | 52.3 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | N-methyl-piperidone | 100 ml | CN1C(CCCC1)=O | C6H11NO
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-4-(4-fluoro-2-nitro-phenylamino)-piperidine | 38.7 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=C(C=C1)F)[N+](=O)[O-] | C18H20FN3O2
